US07087599B2
A solution of 9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (134 mg, 0.43 mmol) in anhydrous THF (2.5 mL) was cooled in an ice bath, stirred under a nitrogen atmosphere, and treated with 0.4M LDA in THF (1.2 mL, 0.48 mmol). After stirring at 0° C. for 30 minutes, the enolate solution was cooled to −78° C. and treated with a solution of iodine (540 mg, 2.13 mmol) in THF. The resulting mixture was allowed to gradually warm to room temperature, then stirred at room temperature overnight. The mixture was diluted with EtOAc (50 mL), washed with 1N HCl, saturated aqueous Na2SO3 (2×30 mL), water, 5% NaHCO3, and brine, dried over MgSO4, filtered, and evaporated under vacuum to provide crude (2SR,9aRS)-9a-butyl-2-iodo-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one as a gum.

reactant | 9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.43 mmol, 134 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C)OCOC | C20H26O3
reactant | LDA | 0.4M | [Li+].CC(C)[N-]C(C)C
reactant | iodine | 2.13 mmol, 540 mg | II | I2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | 0.48 mmol, 1.2 mL | C1CCOC1 | C4H8O
product | (2SR,9aRS)-9a-butyl-2-iodo-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)I)=O)C)OCOC | C20H25IO3
